US05079243
(+)-8-chloro-5-(2,3-dihydro-benzofuran-7-yl)-7-methoxy-methyloxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine.
(+)-8-chloro-5-(2,3-dihydrobenzofuran-7-yl)-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-ol (4.95 g, 0.015 mol) and potassium-tert butylate (1.85 g, 0.016 mol) are dissolved in dry tetrahydrofuran (40 ml) at 5° C. Chloromethyl methyl ether (1.51 g, 0.019 mol) is added, the temperature raising to 35° C. The reaction mixture is stirred for three hours, then evaporated to dryness under reduced pressure. The residue is partitioned between water and toluene after adjusting the pH to 8.0 by addition of 1N sodiumhydroxide. The toluene phase is dried over magnesium sulphate, and evaporated to dryness under reduced pressure. The residue is crystallized from ethylacetate (11 ml).

reactant | (+)-8-chloro-5-(2,3-dihydrobenzofuran-7-yl)-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-ol | 0.015 mol, 4.95 g | ClC=1C(=CC2=C(CCN(CC2C2=CC=CC=3CCOC32)C)C1)O | C19H20ClNO2
reactant | Chloromethyl methyl ether | 0.019 mol, 1.51 g | COCCl | C2H5ClO
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | (+)-8-chloro-5-(2,3-dihydro-benzofuran-7-yl)-7-methoxy-methyloxy-3-methyl-2,3,4,5-tetrahydro-1H-3-benzazepine | ClC=1C(=CC2=C(C(CN(CC2C2=CC=CC=3CCOC32)C)OC)C1)OC | C21H24ClNO3
